US03980645
To a solution of 1.89 g of 2-trichloroacetamido-5-chlorobenzophenone in 40 ml of dimethylsulfoxide was added 3.05 g of monoethanolamine, and the resultant mixture was heated at about 90°C for 3 hours. After cooling, the reaction mixture was poured into 300 ml of water and extracted with chloroform. The extract was washed twice with water and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel using chloroform as an eluent to give 1.0 g of 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one. Recrystallization from ethanol gave pale yellow prisms, having a melting point of 219° - 220°C.

reactant | 2-trichloroacetamido-5-chlorobenzophenone | 1.89 g | ClC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)(Cl)Cl | C15H9Cl4NO2
reactant | monoethanolamine | 3.05 g | C(O)CN | C2H7NO
reactant | water | 300 ml | O | H2O
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 1.0 g | ClC1=CC=2C3(N(C(NC2C=C1)=O)CCO3)C3=CC=CC=C3 | C16H13ClN2O2
